Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of
hypertension and osteoporosis who presents with headaches and
decreased po intake.

Patient has had poor po intake for the past ___ days per
daughter with overall weakness and poor appetite. She has had
worsening headaches with nausea and vomiting over the past few
days especially last night with diffuse body aches and abdominal
pain. Last night symptoms were so severe that patient stated she
felt like she was going to die. She denies diarrhea, dysuria, or
polyuria. She also denies polydipsia. She is currently on a
thiazide though this has been a stable medication for many years
now without recent change in dose. 

___ female with a history of hypertension presents with
headache. According to patient and family she has been
complaining of a severe diffuse headache for the past ___ days
constant in nature not relieved with Tylenol. This is also
associated with right upper quadrant pain a couple episodes of
vomiting nonbloody nonbilious. As well as some difficulty
breathing and pleuritic-type component to her pain. She denies
hemoptysis or lower extremity swelling or recent travel. She
denies fevers or chills. She denies change in bowel or bladder
habits.
 
Past Medical History:
PAST MEDICAL / SURGICAL HISTORY:
 Essential Hypertension
 Osteoporosis
 Vitamin D Deficiency
 Depression with psychotic features
 RIGHT EYE CATARACT SURGERY ___ 
 LEFT EYE CATARACT SURGERY ___ 
 TOTAL ABDOMINAL HYSTERECTOMY
---------------

 
Social History:
___
Family History:
Fam Hx: Non contributory 
 
Physical Exam:
EXAM(8)
VITALS: Temp: 98.5 (Tm 98.5), BP: 129/82, HR: 79, RR: 16, O2 
sat:
97%, O2 delivery: Ra
___: Weight: 110 (With Clothes; With Shoes)
___: BMI: 19.6
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 11:21AM BLOOD Glucose-103* UreaN-10 Creat-1.0 Na-125* 
K-4.4 Cl-87* HCO3-24 AnGap-14

___ 12:10AM BLOOD Glucose-102* UreaN-9 Creat-1.0 Na-131* 
K-4.2 Cl-95* HCO3-25 AnGap-11
___ 08:12AM BLOOD Glucose-159* UreaN-9 Creat-1.0 Na-132* 
K-3.8 Cl-94* HCO3-23 AnGap-15
___ 11:21AM BLOOD Osmolal-256*
___ 11:21AM BLOOD D-Dimer-358
___ 11:21AM BLOOD WBC-8.4 RBC-3.88* Hgb-11.4 Hct-32.7* 
MCV-84 MCH-29.4 MCHC-34.9 RDW-12.1 RDWSD-36.8 Plt ___
___ 08:12AM BLOOD WBC-6.7 RBC-4.01 Hgb-11.9 Hct-35.2 MCV-88 
MCH-29.7 MCHC-33.8 RDW-12.4 RDWSD-39.7 Plt ___
 
Brief Hospital Course:
#Hypovolemic Hyponatremia - while urine lytes are somewhat 
suggestive of SIADH type picture, patient takes a thiazide at 
home. Thiazide held and given IVF - Na appropriately corrected. 
Patient much better overall and will be discharged home on 
Losartan part of HTN combination pill. To hold HCTZ until sees 
PCP. 

#Headache - N/V - unclear whether this was secondary to the 
hyponatremia versus the trigger for it. She notes decreased oral 
intake for the past 20 days with ___ day history of headache and 
diffuse body aches with an episode of emesis so suspect the
former. She states her symptoms have since resolved. She 
received both fluids and antiemetics / Tylenol in the ED so 
again not entirely clear which of the 2 relived her symptoms.- 
Resolved at time of discharge. 

#HTN - hold home antihypertensives (takes combination pill) - 
will restart Losartan part of combo pill on discharge. 

#Osteoporosis/VitD deficiency - hold fosamax as qweekly while 
inpatient - but can
resume on discharge, continue home vitD

#GERD - continue home PPI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 
2. Alendronate Sodium 70 mg PO Frequency is Unknown 
3. Omeprazole 20 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Valsartan 160 mg PO DAILY 
RX *valsartan 160 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Alendronate Sodium 70 mg PO WEEKLY  
3.  Omeprazole 20 mg PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5. HELD- valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY  
This medication was held. Do not restart 
valsartan-hydrochlorothiazide until you see your primary doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Auntie ___,

You were admitted with low sodium and headaches. In the 
emergency department you were treated for your headache with 
what we call a "Migraine Cocktail" which is IV Benadryl and 
Compazine. Your Sodium was low, which most likely is due to the 
Diuretic part of your blood pressure medication in combination 
with not drinking/eating well. You may be able to restart this 
medication - but I would like for you to see your primary 
doctor, or a different doctor for blood draw to ensure that you 
sodiums are stable before restarting. 

Thanks for allowing us to care for you. Best of luck! 
 
Followup Instructions:
___